US06365591B1
a) 1-(5-Chloro-2-hydroxyphenyl)piperazine dihydrobromide (Compound 2A)
A suspension of 5.5 g of 1-(5-chloro-2-methoxyphenyl)piperazine in 40 mL of 62% hydrobromic acid was stirred at reflux for 30 hours. After cooling to room temperature, the mixture was filtered by suction and the solid was washed on the funnel with acetone affording 6.02 g of the title compound. M.p.>270° C. (ethanol).

reactant | 1-(5-chloro-2-methoxyphenyl)piperazine | 5.5 g | ClC=1C=CC(=C(C1)N1CCNCC1)OC | C11H15ClN2O
reactant | hydrobromic acid | 40 mL | Br | BrH
product | 1-(5-Chloro-2-hydroxyphenyl)piperazine dihydrobromide | Br.Br.ClC=1C=CC(=C(C1)N1CCNCC1)O | InChI=1S/C10H13ClN2O.2BrH/c11-8-1-2-10(14)9(7-8)13-5-3-12-4-6-13;;/h1-2,7,12,14H,3-6H2;2*1H
